US04550107
(a) 7-[(Diethylamino)methyl]-hexahydro-2H-azepin-2-one hydrochloride
While maintaining a reaction temperature of from -10° to -5° C., a solution azide (10.0 g, 0.154 mol) in as little water as possible is added dropwise to a solution of 2-[(diethylamino)methyl]-cyclohexanone (22.0 g, 0.1 mol) in concentrated hydrochloric acid (200 ml). After the cooling has been stopped, the mixture is stirred (48 minutes) at ambient temperature. After further cooling to -10° to -5° C., sodium azide, (5.0 g, 0.77 mol) is added in the same way as described above, after which the mixture is stirred for a further 24 hours at ambient temperature. Then, the reaction mixture is concentrated under water jet vacuum, the syrupy residue is taken up in 10 ml of water, mixed with substantially anhydrous sodium carbonate and stirred thoroughly with ethyl acetate (200 ml). After removal of the solvent the organic phase leaves an oily residue which can be converted into a hydrochloride by treatment with ethereal hydrogen chloride solution. M.p. 171° C. (ethyl acetate/methanol 3:1 v/v). Yield: 10.1 g.

reactant | azide | 0.154 mol, 10.0 g | [N-]=[N+]=[N-]
reactant | water | O | H2O
reactant | 2-[(diethylamino)methyl]-cyclohexanone | 0.1 mol, 22.0 g | C(C)N(CC)CC1C(CCCC1)=O | C11H21NO
reactant | sodium azide | 0.77 mol, 5.0 g | [N-]=[N+]=[N-].[Na+]
reactant | hydrochloric acid | 200 ml | Cl | ClH
solvent | ethyl acetate methanol | C(C)(=O)OCC.CO
product | 7-[(Diethylamino)methyl]-hexahydro-2H-azepin-2-one hydrochloride | Cl.C(C)N(CC)CC1CCCCC(N1)=O | InChI=1S/C11H22N2O.ClH/c1-3-13(4-2)9-10-7-5-6-8-11(14)12-10;/h10H,3-9H2,1-2H3,(H,12,14);1H
